US05155122
Sodium (0.68 g, 29.7 mmol) is dissolved in 40 ml of t-butanol under N2 atmosphere. Guanidine hydrochoride (3.31 g, 34.65 mmol) is added to the sodium t-butoxide solution and stirred at room temperature for 0.5 hour. 2,6-Bis(1,1-dimethylethyl)-4-[5-(methylsulfonyl)-1,3,4-oxadiazole-2-yl]-phenol (3.50 g, 9.93 mmol) is added and the reaction is warmed at reflux overnight. The cool reaction mixture is concentrated in vacuo and is recrystallized from methanol-water. The solid is dissolved in diethyl ether and treated with ethereal HCl and the precipitate is collected and recrystallized from ethanol-ether to give 1.53 g (3.29 g theor., 46%) of N-[5-[3,5-bis(1,1-dimethylethyl) -4-hydroxyphenyl]-1,3,4-oxadiazole-2-yl]guanidine, monochloride as a white solid: mp 223°-22° C.

reactant | Sodium | 29.7 mmol, 0.68 g | [Na] | Na
reactant | Guanidine hydrochoride | 34.65 mmol, 3.31 g | Cl.NC(=N)N
reactant | sodium t-butoxide | CC(C)([O-])C.[Na+]
reactant | 2,6-Bis(1,1-dimethylethyl)-4-[5-(methylsulfonyl)-1,3,4-oxadiazole-2-yl]-phenol | 9.93 mmol, 3.50 g | CC(C)(C)C1=C(C(=CC(=C1)C=1OC(=NN1)S(=O)(=O)C)C(C)(C)C)O | C17H24N2O4S
solvent | t-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | N-[5-[3,5-bis(1,1-dimethylethyl) -4-hydroxyphenyl]-1,3,4-oxadiazole-2-yl]guanidine | 1.53 g, 46% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=NN=C(O1)NC(=N)N | C17H25N5O2
